US08557983B2
2-(3-(benzyloxy)phenoxy)-N,N-dimethylethanamine
A solution of 3-(benzyloxy)phenol (2.002 g), 2-chloro-N,N-dimethylethanamine (1.459 g) in N,N-dimethylformamide (50 mL) was treated with cesium carbonate (3.91 g) and stirred at 50° C. overnight. The mixture was diluted with ethyl acetate and 1N aqueous NaOH and the layers were separated. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (5% 7N NH3 in methanol-dichloromethane) to give the desired product.

reactant | 3-(benzyloxy)phenol | 2.002 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
reactant | 2-chloro-N,N-dimethylethanamine | 1.459 g | ClCCN(C)C | C4H10ClN
reactant | cesium carbonate | 3.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 1N | [OH-].[Na+]
product | 2-(3-(benzyloxy)phenoxy)-N,N-dimethylethanamine | C(C1=CC=CC=C1)OC=1C=C(OCCN(C)C)C=CC1 | C17H21NO2
